* C:\Users\filberol\Documents\labs_fs\lab1_fs\nor_test.asc
V1 N001 0 1
R1 N003 0 1k
C1 N003 0 100f
V2 N004 0 PULSE(0 1 2n 10p 10p 2n 4n)
XX1 N002 N004 N001 N003 nor_gate
V3 N002 0 PULSE(0.05 0.95 1n 10p 10p 1n 2n)

* block symbol definitions
.subckt nor_gate A B VDD R
M2 R A 0 0 NMOS l=90n w=200n
M1 R B 0 0 NMOS l=90n w=200n
M5 N001 B R VDD PMOS l=90n w=400n
M6 VDD A N001 VDD PMOS l=90n w=400n
.include 90nm_bulk.txt
.ends nor_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\filberol\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 10n 0 1p
.backanno
.end
